US03983107
N-(N-[Bicyclo[2.2.1]hept-2-en-5-ylmethyl]carbamoyl)- 2-phenylethenesulfonamide
To a solution of 1.8 g. of 2-phenylethenesulfonamide and 4.8 g. of 1,1-diphenyl-3-(bicyclo[2.2.1]hept-2-en-5-ylmethyl)urea in 20 ml. of N,N-dimethylformamide, is added, with stirring, 0.64 g. of a 56.6% dispersion of sodium hydride in mineral oil. The mixture is stirred at ambient temperature overnight, during which time a heavy precipitate forms. To the reaction mixture is then added 200 ml. of ether. After stirring for 15 minutes, the precipitate is filtered off. It is dissolved in 50 ml. of water, and then the crude product is precipitated by acidification using concentrated hydrochloric acid. It is filtered off and recrystallized from aqueous acetone. The yield is 1.9 g. (56%) of a solid, m.p. 161°-163.5° C.

reactant | 2-phenylethenesulfonamide | C1(=CC=CC=C1)C=CS(=O)(=O)N | C8H9NO2S
reactant | 1,1-diphenyl-3-(bicyclo[2.2.1]hept-2-en-5-ylmethyl)urea | C1(=CC=CC=C1)N(C(=O)NCC1C2C=CC(C1)C2)C2=CC=CC=C2 | C21H22N2O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
solvent | ether | CCOCC | C4H10O
product | N-(N-[Bicyclo[2.2.1]hept-2-en-5-ylmethyl]carbamoyl)- 2-phenylethenesulfonamide | C12C=CC(C(C1)CNC(=O)NS(=O)(=O)C=CC1=CC=CC=C1)C2 | C17H20N2O3S
